US07541357B2
A mixture of isoquinolin-4-ylboronic acid (1.00 g, 5.78 mmol), 5-bromo-7-chloro-1H-indazole (892 mg, 3.85 mmol), 2.0 M sodium carbonate (3.85 mL, 7.71 mmol) and dimethoxyethane was degassed with argon. Tetrakis(triphenylphosphine)palladium(0) (233 mg, 0.193 mmol) was added, the mixture degassed again with argon, then heated to 85° C. for 24 hours. The reaction was cooled and partitioned between ethyl acetate and water, the organic layer washed with and dried with sodium sulfate. The solvent was removed under vacuum and the residue purified by column chromatography (9/1 to 6/4 hexanes/ethyl acetate gradient) to give 4-(7-chloro-1H-indazol-5-yl)-isoquinoline (777 mg, 72%): 1H NMR (300 MHz, CDCl3) δ 10.52 (s, 1H) 9.31 (s, 1H), 8.53 (s, 1H), 8.22 (s, 1H), 8.09 (dd, J=7.4, 1.62 Hz, 1H), 7.28 (dd, J=7.4, 1.2 Hz, 1H), 7.87 (d, J=9.0 Hz, 1H), 7.81 (d, J=1.2 Hz, 1H), 7.72-7.64 (m, 2H), 7.57 (d, J=1.3 Hz, 1H).

reactant | isoquinolin-4-ylboronic acid | 5.78 mmol, 1.00 g | C1=NC=C(C2=CC=CC=C12)B(O)O | C9H8BNO2
reactant | 5-bromo-7-chloro-1H-indazole | 3.85 mmol, 892 mg | BrC=1C=C2C=NNC2=C(C1)Cl | C7H4BrClN2
reactant | sodium carbonate | 7.71 mmol, 2.0 M, 3.85 mL | C([O-])([O-])=O.[Na+].[Na+]
catalyst | Tetrakis(triphenylphosphine)palladium(0) | 0.193 mmol, 233 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | dimethoxyethane | C(OC)COC | C4H10O2
product | 4-(7-chloro-1H-indazol-5-yl)-isoquinoline | 777 mg, 72% | ClC=1C=C(C=C2C=NNC12)C1=CN=CC2=CC=CC=C12 | C16H10ClN3
